US09029536B2
A) 3-Bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine
A suspension of 3-bromo-1H-pyrazolo[4,3-b]pyridine (2.22 g), EtI (1.08 mL), and K2CO3 (2.32 g) in DMF (15 mL) was stirred overnight at room temperature. The reaction mixture was poured into water and extracted with AcOEt. The extract was washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. The residue purified by basic silica gel column chromatography (hexane/AcOEt) and crystallized from hexane/AcOEt to give the title compound (1.90 g).

reactant | 3-bromo-1H-pyrazolo[4,3-b]pyridine | 2.22 g | BrC1=NNC=2C1=NC=CC2 | C6H4BrN3
reactant | EtI | 1.08 mL | C(C)I | C2H5I
reactant | K2CO3 | 2.32 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-1-ethyl-1H-pyrazolo[4,3-b]pyridine | 1.90 g | BrC1=NN(C=2C1=NC=CC2)CC | C8H8BrN3
